US06492348B1
(2R,3R,4S,5S)-2-[6-(cyclopentylamino)-9H-purin-9-yl]-5-(3-methyl-1,2,4-oxadiazol-5-yl)tetrahydrofuran-3,4-diol
A mixture of N-{9-[(3aR,4R,6S,6aR)-2,2-dimethyl-6-(3-methyl-1,2,4-oxadiazol-5-yl)tetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-9H-purin-6-yl}-N-cyclopentylamine (63 mg), trifluoroacetic acid (1 ml) and water (0.1 ml) was stirred at 0° for 6 h and then diluted with ethyl acetate (20 ml). The mixture was neutralised with sodium bicarbonate solution and the aqueous phase was extracted with ethyl acetate (2×10 ml). The combined organic extracts were washed with water (8 ml) and brine (10 ml) and dried (MgSO4). After concentration in vacuo the residue was purified by flahs column chromatography on silica gel, eluting with ethyl acetate:methanol (19:1) to give the title compound as a white foam (42 mg).

reactant | N-{9-[(3aR,4R,6S,6aR)-2,2-dimethyl-6-(3-methyl-1,2,4-oxadiazol-5-yl)tetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-9H-purin-6-yl}-N-cyclopentylamine | 63 mg | CC1(O[C@@H]2[C@@H](O1)[C@H](O[C@H]2N2C1=NC=NC(=C1N=C2)NC2CCCC2)C2=NC(=NO2)C)C | C20H25N7O4
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 0.1 ml | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (2R,3R,4S,5S)-2-[6-(cyclopentylamino)-9H-purin-9-yl]-5-(3-methyl-1,2,4-oxadiazol-5-yl)tetrahydrofuran-3,4-diol | 42 mg | C1(CCCC1)NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C1=NC(=NO1)C | C17H21N7O4
